* C:\Users\zayin\OneDrive - Syddansk Universitet\Desktop\power electronics\Assignment 4\IGBT_switch_w10_2025_littelfuse_ideal_diode.asc
V2 Node5 0 PULSE(0 10 0 1n 1n {D*T} {T})
M1 Node3 N002 Node4 Node4 Si7336ADP
I1 Node1 Node2 3
V1 Node1 0 5
R2 Node2 Node3 1m
R3 Node4 0 1m
D1 Node2 Node1 Didl
RG Node5 N002 10
Z1 Node30 N001 Node40 IXDH20N120
R1 Node20 Node30 1m
R4 Node40 0 1m
R5 Node50 N001 10
D2 Node20 Node10 Didl
V3 Node50 0 PULSE(0 10 0 1n 1n {D*T} {T})
V4 Node10 0 5
I2 Node10 Node20 3
.model D D
.lib C:\Users\zayin\AppData\Local\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\zayin\AppData\Local\LTspice\lib\cmp\standard.mos
.param D = 0.45
.param T = 10u
.tran 1m
.inc IXDH20N120.lib
.model Didl D(Ron=0.0001 Roff=100G Vfwd=0)
.backanno
.end
